US08957203B2
A solution of (3R)-ethyl 2-amino-3,5-dimethylnon-8-enoate hydrochloride (4 g, 0.017 moles) in DCM (40 mL) was added N,N-diisopropylethylamine (DIPEA, 3.4 g, 0.026 moles) followed by di-tert-butyl dicarbonate (4.6 g, 0.021 moles) at room temperature. The reaction mass was stirred at room temperature overnight. The reaction mass was diluted with DCM and washed with water. The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure to afford the crude compound. The crude compound was purified by column chromotography (Silica gel, 20% ethyl acetate in pet-ether) to get 4.7 g, (94%) of (3R)-ethyl 2-(tert-butoxycarbonylamino)-3,5-dimethylnon-8-enoate as an oil.

reactant | (3R)-ethyl 2-amino-3,5-dimethylnon-8-enoate hydrochloride | 0.017 moles, 4 g | Cl.NC(C(=O)OCC)[C@@H](CC(CCC=C)C)C
reactant | N,N-diisopropylethylamine | 0.026 moles, 3.4 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 0.021 moles, 4.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (3R)-ethyl 2-(tert-butoxycarbonylamino)-3,5-dimethylnon-8-enoate | 94% | C(C)(C)(C)OC(=O)NC(C(=O)OCC)[C@@H](CC(CCC=C)C)C | C18H33NO4
